US06034127
e) 2-Chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester
2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester (745 mg, 1.5 mmol), as prepared in the preceding step, was treated with 4N HCl in 1,4-dioxane (20 mL) at room temperature for 2 h. The solvent was removed in vacuo and the residue was purified by flash column chromatography (10% methanol in methylene chloride saturated with NH3) to give the title compound as a colorless syrup (570 mg, 95%). 1H-NMR (300 MHz, CDCl3) δ 1.45 (m, 1H), 1.94 (m, 3H), 2.23 (s,3H), 2.45 (m, 1H), 2.71 (dt, 2H, J=1.2, 12.3 Hz), 3.51 (m, 2H), 3.76 (m, 2H), 6.46 (t, 1H, J=2.1 Hz), 6.53 (s, 1H), 6.58 (s, 1H), 7.40 (t, 1H, J=6.5 Hz), 7.62 (m, 2H), and 7.97 (dd, 1H, J=1.4, 7.9 Hz). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C19H22NO4SCl: 396.1 (M+H), Found: 396.4.

reactant | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester | 1.5 mmol, 745 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C24H30ClNO6S
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[(piperidin-4-yl)methoxy]-5-methylphenyl ester | 570 mg, 95% | N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H22ClNO4S
